US07432279B2
4-[(3-chloro-4-fluorophenyl)amino]-6-[(3-hydroxypropyl)amino]-1,7-naphthyridine-3-carbonitrile
Following the procedure described above in Example 34, 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile was reacted with 3-aminopropan-1-ol. The crude product was purified by flash column chromatography (1% methanol in methylene chloride) to give a yellow solid (0.048 g, 55%). 1H NMR (400 MHz, DMSO-D6) δ ppm 1.8 (m, 2 H) 3.3 (d, J=6.3 Hz, 4 H) 3.5 (m, 2 H) 6.9 (m, 1 H) 7.0 (s, 1 H) 7.4 (m, 1 H) 7.5 (t, J=9.2 Hz, 1 H) 7.6 (m, 1 H) 8.3 (s, 1 H) 8.8 (s, 1 H).

reactant | 4-(3-Chloro-4-fluoro-phenylamino)-6-fluoro-[1,7]naphthyridine-3-carbonitrile | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)F)C#N | C15H7ClF2N4
reactant | 3-aminopropan-1-ol | NCCCO | C3H9NO
product | 4-[(3-chloro-4-fluorophenyl)amino]-6-[(3-hydroxypropyl)amino]-1,7-naphthyridine-3-carbonitrile | 0.048 g, 55% | ClC=1C=C(C=CC1F)NC1=C(C=NC2=CN=C(C=C12)NCCCO)C#N | C18H15ClFN5O
